US05668291
2,2'-Dithiobis[N-[2-(aminosulfonyl)phenyl]benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 2-aminobenzenesulfonamide (2.00 g, 11.6 mmol) in 16 mL of pyridine. The reaction mixture was stirred for 6 days at 23° C. under nitrogen atmosphere. The crude product was recrystallized from acetonitrile to yield 0.70 g of the title compound, mp 150°-151° C. (dec.).

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 2-aminobenzenesulfonamide | 11.6 mmol, 2.00 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-[2-(aminosulfonyl)phenyl]benzamide] | 0.70 g | NS(=O)(=O)C1=C(C=CC=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=C(C=CC=C2)S(=O)(=O)N)C=CC=C1)=O | C26H22N4O6S4
